US04594199
3-[Ethoxy-(4-phenylbutyl)phosphinyl]propionic acid
To a solution of 4-phenylbutyl phosphonous acid, ethyl ester (0.5 g, 0.0022 mole) in chloroform (10 ml) was added triethylamine (0.68 ml, 0.0049 mole), trimethyl silylchloride (0.61 ml, 0.0049 mole) and acrylic acid (0.175 g, 0.0024 mole). The reaction mixture was stirred at room temperature for 18 hours; the mixture was poured into crushed ice (15 gm) containing 10 ml 10% HCl acid. It was shaken in a separatory funnel; a chloroform layer was evaporated, and the aqueous layer extracted once with 20 ml chloroform. The combined organic phase was washed with water and sodium bicarbonate, dried over anhydrous sodium sulfate and the organic solvent removed on a rotavap to produce the title compound as a thick oil (0.4 g, 61% yield).

reactant | 4-phenylbutyl phosphonous acid, ethyl ester | 0.0022 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(OCC)[O-]
reactant | triethylamine | 0.0049 mole, 0.68 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.0049 mole, 0.61 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | acrylic acid | 0.0024 mole, 0.175 g | C(C=C)(=O)O | C3H4O2
reactant | HCl | 10 ml | Cl | ClH
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[Ethoxy-(4-phenylbutyl)phosphinyl]propionic acid | 0.4 g, 61% yield | C(C)OP(=O)(CCC(=O)O)CCCCC1=CC=CC=C1 | C15H23O4P
